US08106045B2
A solution of N-{4-[(2S)-morpholin-2-yl]phenyl}pyridin-2-amine (0.2 g, 0.78 mmol), 2-chloro-1-methyl-6-oxo-4-(pyridin-4-yl)-1,6-dihydropyrimidine (0.13 g, 0.62 mmol), and triethylamine (0.23 g, 2.3 mmol) in tetrahydrofuran (10 ml) was stirred at 95° C. for 3 hours. The solvent was removed under reduced pressure and the residue was partitioned between water and dichloromethane. The organic layer was dried over anhydrous sodium sulfate and the solvent was concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (chloroform-methanol, 10:1) to afford 3-Methyl-2-((2S)-2-(4-((pyridin-2-yl)amino)phenyl)morpholin-4-yl)-6-(pyridin-4-yl)-pyrimidin-4(3H)-one (100 mg, 37%) as a yellow oil.

reactant | N-{4-[(2S)-morpholin-2-yl]phenyl}pyridin-2-amine | 0.78 mmol, 0.2 g | N1C[C@@H](OCC1)C1=CC=C(C=C1)NC1=NC=CC=C1 | C15H17N3O
reactant | 2-chloro-1-methyl-6-oxo-4-(pyridin-4-yl)-1,6-dihydropyrimidine | 0.62 mmol, 0.13 g | ClC=1N(C(C=C(N1)C1=CC=NC=C1)=O)C | C10H8ClN3O
reactant | triethylamine | 2.3 mmol, 0.23 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Methyl-2-((2S)-2-(4-((pyridin-2-yl)amino)phenyl)morpholin-4-yl)-6-(pyridin-4-yl)-pyrimidin-4(3H)-one | 100 mg, 37% | CN1C(=NC(=CC1=O)C1=CC=NC=C1)N1C[C@@H](OCC1)C1=CC=C(C=C1)NC1=NC=CC=C1 | C25H24N6O2
